US08304425B2
To a solution of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-5-thioxo-1,5-dihydro-pyrrol-2-one (4.7 g, 12 mmol) in MeOH (75 mL) under N2, with stirring, was added Raney nickel. The mixture was filtered under N2 and the filtrate evaporated. The residue obtained was purified by column chromatography (SiO2, EtOAc/hexanes), yielding 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one as an off-white solid (2.2 g, 6 mmol, 51%). 1H NMR (400 MHz, DMSO) δ: 11.33 (s, 1H), 8.19 (s, 1H), 7.55 (s, 1H), 7.37 (dd, J=8.0, 6.0 Hz, 2H), 7.30 (d, J=2.8 Hz, 1H), 7.07 (t, J=7.6 Hz, 1H), 6.90 (t, J=8.0 Hz, 1H), 6.76 (d, J=6.4 Hz, 1H), 6.62 (m, 2H), 4.53 (s, 2H), 4.20 (t, J=5.6 Hz, 2H), 2.94 (t, J=5.6 Hz, 2H), 2.17 (m, 1H), 1.17 (m, 1H); LCMS: 354 [M+H].

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-5-thioxo-1,5-dihydro-pyrrol-2-one | 12 mmol, 4.7 g | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=CC=C23)=S)=O | C23H17N3OS
solvent | MeOH | 75 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one | 6 mmol, 2.2 g, 51% | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NCC2C2=CNC3=CC=CC=C23)=O | C23H19N3O
